US06653308B2
To the ice-cold solution of ammonium hydroxide (25 mL, 159 mmole) of 25% (w/w) was added glycidyldiethylamine dropwise (3.2 g, 24.8 mmol) over 10 minutes. The reaction mixture was stirred at 0-5° C. for 1 hour and then room temperature for 14 hours. The resulting reaction mixture was evaporated and distilled (84-90° C. at 500-600 mT) to yield 1-amino-3-diethylamino-propan-2-ol (3.3 g, 92%). MS m/z 147 ([M+1]+.).

reactant | ammonium hydroxide | 159 mmole, 25 mL | [OH-].[NH4+]
reactant | glycidyldiethylamine | C(C1CO1)N(CC)CC | C7H15NO
product | 1-amino-3-diethylamino-propan-2-ol | 3.3 g, 92% | NCC(CN(CC)CC)O | C7H18N2O
